US06242476B1
1-[(2S)-3-Benzoylthio-2-methylpropionyl]-(4S)-4-(4-cyclohexylbenzylthio)-L-proline (compound No. 1)
Dimethylformamide (4.5 ml) is added to (4S)-4-(4-hexylbenzylthio)-L-proline (430 mg), and the mixture is cooled to 0° C. To the mixture are added successively triethylamine (0.21 ml) and 4-nitrophenyl (2S)-3-(benzoylthio)-2-methylpropionate, and the obtained mixture is stirred at room temperature overnight. To the reaction mixture is added 10% citric acid, and the whole is extracted with ethyl acetate. The organic layer is washed with water and a saturated sodium chloride aqueous solution successively and dried over sodium sulfate. The residue obtained by concentration under reduced pressure is purified by silica gel column chromatography to give 580 mg (81%) of the titled compound as an amorphous substance.

reactant | Dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
reactant | (4S)-4-(4-hexylbenzylthio)-L-proline | 430 mg | C(CCCCC)C1=CC=C(CS[C@H]2C[C@H](NC2)C(=O)O)C=C1 | C18H27NO2S
reactant | 4-nitrophenyl (2S)-3-(benzoylthio)-2-methylpropionate | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C | C17H15NO5S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | 1-[(2S)-3-Benzoylthio-2-methylpropionyl]-(4S)-4-(4-cyclohexylbenzylthio)-L-proline | 580 mg, 81% | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1[C@H](C(=O)O)C[C@@H](C1)SCC1=CC=C(C=C1)C1CCCCC1)C | C29H35NO4S2
